US07189751B2
Preparation of Trans-5-(4-chlorophenyl)-4-methyl-2-(1-ethoxycarbonyl-1-nitromethylene)-thiazolidine
9 g of trans-5-(4-chlorophenyl)-4-methyl-2-methylthio-2-thiazoline, 4.7 g of ethyl nitroacetate, and 0.06 g of zinc chloride were added into a 100 ml capacity of four neck flask, and the mixture was heated under nitrogen flow at the temperature ranging from 110˜130° C. for about five hours. After the completion of the reaction, the product mixture was dissolved with chloroform, washed with water, dried with magnesium sulfate, and then condensed under reduced pressure. The oily product obtained was purified by column chromatography to give 7.6 g of the title compound.

reactant | trans-5-(4-chlorophenyl)-4-methyl-2-methylthio-2-thiazoline | 9 g | ClC1=CC=C(C=C1)[C@H]1[C@@H](N=C(S1)SC)C | C11H12ClNS2
reactant | ethyl nitroacetate | 4.7 g | [N+](=O)([O-])CC(=O)OCC | C4H7NO4
catalyst | zinc chloride | 0.06 g | [Cl-].[Zn+2].[Cl-]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | Trans-5-(4-chlorophenyl)-4-methyl-2-(1-ethoxycarbonyl-1-nitromethylene)-thiazolidine | 7.6 g | ClC1=CC=C(C=C1)[C@H]1[C@@H](NC(S1)=C([N+](=O)[O-])C(=O)OCC)C | C14H15ClN2O4S
